US04906624
(E)-3-Phenyl-2-propanol (13.8 ml, 0.11 mol) and ethyl 3-amino-2-butenoate (12.9 g, 0.1 mol) were dissolved in 150 ml of absolute ethanol containing 0.5 ml of piperidine. The mixture was heated under reflux for 18 hours followed by removal of the solvent under vacuum to yield 17.6 g of ethyl 1,4-dihydro-2-methyl-4-phenyl-3-pyridinecarboxylate as a brown viscous oil.

reactant | ethyl 3-amino-2-butenoate | 0.1 mol, 12.9 g | NC(=CC(=O)OCC)C | C6H11NO2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl 1,4-dihydro-2-methyl-4-phenyl-3-pyridinecarboxylate | 17.6 g | CC=1NC=CC(C1C(=O)OCC)C1=CC=CC=C1 | C15H17NO2
